US06787659B2
The present invention relates to a process for the synthesis of oxandrolone from mestanolone. The process comprises the steps of: (a) oxidizing mestanolone to form 17β-hydroxy-17α-methyl-5α-androst-1-en-3-one; (b) hydroxylating the 17β-hydroxy-17α-methyl-5α-androst-1-en-3-one to form 1α, 2α, 17β-trihydroxy-17α-methylandrostan-3-one; (c) cleaving the 1α, 2α, 17β-trihydroxy-17α-methylandrostan-3-one to form 17β-hydroxy-17α-methyl-1-oxo-1,2,-seco-A-nor-5α-androstan-2-oic acid; and (d) reducing the 17β-hydroxy-17α-methyl-1-oxo-1,2,-seco-A-nor-5α-androstan-2-oic acid to form oxandrolone.

reactant | oxandrolone | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C)O)CC[C@@H]4[C@@]3(COC(=O)C4)C | C19H30O3
reactant | mestanolone | C[C@]12CCC(=O)C[C@@H]1CC[C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@]4(C)O)C | C20H32O2
product | 17β-hydroxy-17α-methyl-5α-androst-1-en-3-one | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C=C[C@]3(C)[C@H]1CC2)=O)C | C20H30O2
